US04154834
A solution of 2-thiazoleacrylic acid (26.76 g) and concentrated sulphuric acid (10 ml) in ethanol (150 ml) was refluxed for 18 hours. The solution was partially evaporated and dissolved in water. This solution was extracted with ether and the etheral extracts were evaporated to give ethyl 2-thiazoleacrylate.

reactant | 2-thiazoleacrylic acid | 26.76 g | S1C(=NC=C1)C=CC(=O)O | C6H5NO2S
reactant | sulphuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 150 ml | C(C)O | C2H6O
product | ethyl 2-thiazoleacrylate | S1C(=NC=C1)C=CC(=O)OCC | C8H9NO2S
